US04369186
24 g (0.2 mol) of 3-methylaminopropionitrile hydrochloride were added to a solution of 21.8 g (0.1 mol) of 4,5-dichloro-2-dichloromethylene-imidazole in 100 ml of dioxane and the mixture was heated to the reflux temperature for two hours, while stirring. After cooling, the product was precipitated with water, filtered off, washed with water and dried. In this way, 16.5 g (67% of theory) of 4,5-dichloroimidazole-2-carboxylic acid N-(2-cyanoethyl)-N-methylamide were obtained. Melting point: 184° C. (from acetonitrile).

reactant | 3-methylaminopropionitrile hydrochloride | 0.2 mol, 24 g | Cl.CNCCC#N
reactant | 4,5-dichloro-2-dichloromethylene-imidazole | 0.1 mol, 21.8 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4,5-dichloroimidazole-2-carboxylic acid N-(2-cyanoethyl)-N-methylamide | 16.5 g, 67% | C(#N)CCN(C(=O)C=1NC(=C(N1)Cl)Cl)C | C8H8Cl2N4O
